US05578627
3-(2-tert-Butoxycarbonylamino-3-methoxyaminocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole is dissolved in 10 ml of 2-propanol, and 12.8 ml of a 2-propanol solution (7.5N) of hydrogen chloride is added, after which they are subjected to reaction at 20°-25° C. overnight. The solvent is removed from the reaction mixture by distillation under reduced pressure, and the crystals obtained are washed with 2-propanol and then collected by filtration, to obtain 0.46 g of colorless, crystalline 3-(2-amino-3-methoxyaminocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 199°-200° C.

reactant | 3-(2-tert-Butoxycarbonylamino-3-methoxyaminocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)COC(=O)NOC | C17H22ClN3O7
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
solvent | 2-propanol | 7.5N, 12.8 ml | CC(C)O | C3H8O
product | 3-(2-amino-3-methoxyaminocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)COC(=O)NOC | InChI=1S/C12H14ClN3O5.ClH/c1-18-16-12(17)20-6-8(14)5-19-11-9-4-7(13)2-3-10(9)21-15-11;/h2-4,8H,5-6,14H2,1H3,(H,16,17);1H
